US09233985B2
A stirred solution of 5-allylcyclopent-2-enone (2.20 g, 18 mmol), t-butyl carbamate (4.70 g, 40 mmol), and tetra-n-butylammonium bromide (6.45 g, 20 mmol) in anhydrous dichloromethane (40 mL) under nitrogen was cooled in an ice bath (3° C.) and treated dropwise with boron trifluoride etherate (2.22 mL, 18 mmol). The reaction mixture was allowed to warm to room temperature and stirred for 18 h. Saturated aqueous sodium bicarbonate (40 mL) was added and then mixture stirred for 15 min and separated. The aqueous solution was extracted with dichloromethane (2×20 mL) and the combined organic solution was washed with water and saturated aqueous sodium chloride (20 mL each), dried (Na2SO4), and concentrated in vacuo. The residue was dissolved in minimum dichloromethane and added to a column of silica gel (˜300 cc) and eluted first with 85:15 heptane/ethyl acetate to afford recovered starting material (0.35 g), then with 4:1 heptane/ethyl acetate to afford a mixture of t-butyl carbamate and subject compound. This mixture was warmed in heptane and filtered to remove most of the t-butyl carbamate, then the filtrate was added to a column of silica gel (˜300 cc) and eluted with 6:3:1 heptane/dichloromethane/ethyl acetate to afford tert-butyl 3-allyl-4-oxocyclopentylcarbamate 1.17 g (27%) as a pale amber solid. NMR (CDCl3): δ 5.60-5.75 (m, 1 H), 4.90-5.05 (m, 2 H), 4.50 (br s, 1 H), 4.00-4.25 (m, 1 H), 2.30-2.80 (m, 3 H), 2.20-2.30 (m, 1 H), 1.85-2.15 (m, 3 H), 1.38 (s, 9 H). MS (M+1): 240.1.

reactant | 5-allylcyclopent-2-enone | 18 mmol, 2.20 g | C(C=C)C1CC=CC1=O | C8H10O
reactant | t-butyl carbamate | 40 mmol, 4.70 g | C(N)(OC(C)(C)C)=O | C5H11NO2
reactant | boron trifluoride etherate | 18 mmol, 2.22 mL | B(F)(F)F.CCOCC
reactant | sodium bicarbonate | 40 mL | C([O-])(O)=O.[Na+]
catalyst | tetra-n-butylammonium bromide | 20 mmol, 6.45 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | heptane | CCCCCCC | C7H16
product | tert-butyl 3-allyl-4-oxocyclopentylcarbamate | 1.17 g, 27% | C(C=C)C1CC(CC1=O)NC(OC(C)(C)C)=O | C13H21NO3
